US08030438B2
Synthesis of 3-diethoxyphosphoryl-[2,2′]-bithiophene
Copper(I) chloride (2.5 equivalents) was charged into a reaction container, to which 2-thienyltributyl tin (2.5 equivalents) and 2-iodo-3-diethoxyphosphorylthiophene were added under nitrogen atmosphere while being dissolved in tetrahydrofuran, followed by heating under reflux for 20 hours. After completion of the reaction, the reaction solution was filtered through celite and the resulting residue was washed with ethyl acetate. The filtrate was washed three times with a 1N hydrochloric acid aqueous solution and a 10% saline solution and dried over anhydrous sodium sulfate. The solvent was distilled off, and the resulting crude product was purified with a silica gel column (hexane:ethyl acetate=1:3) to obtain a colorless liquid.

reactant | 2-thienyltributyl tin | 2.5 equivalents | S1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-iodo-3-diethoxyphosphorylthiophene | IC=1SC=CC1P(=O)(OCC)OCC | C8H12IO3PS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Copper(I) chloride | 2.5 equivalents | [Cu]Cl
product | 3-diethoxyphosphoryl-[2,2′]-bithiophene | C(C)OP(=O)(OCC)C1=C(SC=C1)C=1SC=CC1 | C12H15O3PS2
